US07989438B2
Step 5: (7R)-7-[(2-aminoethyl)(benzyl)amino]-14-cyclohexyl-3-fluoro-N-{[methyl(2-oxoethyl)amino]sulfonyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide
Tert-butyl [2-(benzyl{(7R)-14-cyclohexyl-11-[({[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}amino)carbonyl]-3-fluoro-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl}amino)ethyl]carbamate was dissolved in THF (50 mM) and 3M aqueous HCl (10 eq) was added. The solution was warmed to 60° C. and stirred for 2 h. The solution was then used directly in the next step. (ES+) m/z 676 (M+H)+.

reactant | Tert-butyl [2-(benzyl{(7R)-14-cyclohexyl-11-[({[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}amino)carbonyl]-3-fluoro-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl}amino)ethyl]carbamate | C(C1=CC=CC=C1)N(CCNC(OC(C)(C)C)=O)[C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)NS(=O)(=O)N(C)CC(OC)OC)C=CC(=C2)F | C43H56FN5O8S
reactant | HCl | 3M, 10 eq | Cl | ClH
solvent | THF | 50 mM | C1CCOC1 | C4H8O
product | (7R)-7-[(2-aminoethyl)(benzyl)amino]-14-cyclohexyl-3-fluoro-N-{[methyl(2-oxoethyl)amino]sulfonyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide | NCCN([C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)NS(=O)(=O)N(CC=O)C)C=CC(=C2)F)CC2=CC=CC=C2 | C36H42FN5O5S
